US08865726B2
(S)-4-(ethoxymethyl)-2-phenyl-4,5-dihydrooxazole (909 mg, 4.43 mmol) was dissolved in 25 ml 4.0 M hydrochloric acid. The resulting solution was refluxed for 20 hours. After cooling to ambient temperature the mixture was filtered to remove the benzoic acid. The filtrate was extracted with ether, and the ether layer discarded. The aqueous layer was concentrated to afford (R)-2-amino-3-ethoxypropan-1-ol hydrochloride (425 mg, 62%) as a low-melting reddish solid.

reactant | (S)-4-(ethoxymethyl)-2-phenyl-4,5-dihydrooxazole | 4.43 mmol, 909 mg | C(C)OC[C@@H]1N=C(OC1)C1=CC=CC=C1 | C12H15NO2
reactant | hydrochloric acid | 4.0 M, 25 ml | Cl | ClH
product | (R)-2-amino-3-ethoxypropan-1-ol hydrochloride | 425 mg, 62% | Cl.N[C@H](CO)COCC | InChI=1S/C5H13NO2.ClH/c1-2-8-4-5(6)3-7;/h5,7H,2-4,6H2,1H3;1H/t5-;/m1./s1
